US08383635B2
4-[(2,2-dioxido-1,3-dihydro-2-benzothien-5-yl)amino]-6-methyl-2-(methylthio)-5-pyrimidinecarbonitrile
The compound was prepared from 4-chloro-6-methyl-2-(methylthio)-5-pyrimidinecarbonitrile and (2,2-dioxido-1,3-dihydro-2-benzothien-5-yl)amine following a procedure similar to that described for Intermediate 23.

reactant | 4-chloro-6-methyl-2-(methylthio)-5-pyrimidinecarbonitrile | ClC1=NC(=NC(=C1C#N)C)SC | C7H6ClN3S
reactant | (2,2-dioxido-1,3-dihydro-2-benzothien-5-yl)amine | O=S1(CC2=C(C1)C=CC(=C2)N)=O | C8H9NO2S
product | 4-[(2,2-dioxido-1,3-dihydro-2-benzothien-5-yl)amino]-6-methyl-2-(methylthio)-5-pyrimidinecarbonitrile | O=S1(CC2=C(C1)C=CC(=C2)NC2=NC(=NC(=C2C#N)C)SC)=O | C15H14N4O2S2
